US04938790
Preparation of 2-Methoxymethoxy-3-methyl-2'-methoxybenzophenone.
A solution of 8.72 ml of oxalyl chloride in 300 ml of dichloromethane was cooled with a dry ice-acetone bath and a solution of 13.9 ml of dimethyl sulfoxide in 50 ml of dichloromethane was added dropwise with stirring. After 30 min, (2-methoxyphenyl)(3-methyl-2-methoxymethoxyphenyl)methanol (26.4 g) dissolved in 100 ml of dichloromethane was added slowly with stirring and the mixture allowed to react for 1 hour. Triethylamine (64 ml) was then added and the resulting mixture was stirred another 30 min cold and then allowed to warm to room temperature. The product mixture was extracted sequentially with water, 5 percent hydrochloric acid, water, and 5 percent sodium carbonate. It was then dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain an oil. This was purified by preparative liquid chromatography to obtain the title compound as an oil. The assigned structure was consistent with the proton NMR spectrum.

reactant | oxalyl chloride | 8.72 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 13.9 ml | CS(=O)C | C2H6OS
reactant | (2-methoxyphenyl)(3-methyl-2-methoxymethoxyphenyl)methanol | 26.4 g | COC1=C(C=CC=C1)C(O)C1=C(C(=CC=C1)C)OCOC | C17H20O4
reactant | Triethylamine | 64 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-Methoxymethoxy-3-methyl-2'-methoxybenzophenone | COCOC1=C(C(=O)C2=C(C=CC=C2)OC)C=CC=C1C | C17H18O4
